US06995151B2
N,N′-Bis-(4-fluoro-benzyl)-isophthalamide
4-Fluoro-benzylamine (1.25 g) is added to isophthaloyl dichloride (1.015 g) in toluene (100 mL). The reaction mixture is stirred at room temperature for 4 days. The product is filtered off and washed with toluene. Recrystallization from methanol gives the product (0.52 g), mp 190–191° C.

reactant | 4-Fluoro-benzylamine | 1.25 g | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | isophthaloyl dichloride | 1.015 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N,N′-Bis-(4-fluoro-benzyl)-isophthalamide | 0.52 g | FC1=CC=C(CNC(C2=CC(C(=O)NCC3=CC=C(C=C3)F)=CC=C2)=O)C=C1 | C22H18F2N2O2
